US06566552B2
400 g of crude ethyl (+) (R)-4-chloro-3-hydroxybutyrate, prepared according to Example 8, and 1 l of 45% trimethylamine in H2O are placed in a 2-liter reactor. The reaction mixture is heated to 80° C. and kept at this temperature for 15 h. After cooling and removing the excess of trimethylamine under nitrogen flow, the aqueous solution is extracted with 1.9 l of methylene chloride and analyzed with HPLC. L-carnitine is obtained with 75% yield.

reactant | ethyl (+) (R)-4-chloro-3-hydroxybutyrate | 400 g | ClC[C@@H](CC(=O)OCC)O | C6H11ClO3
reactant | trimethylamine | 1 l | CN(C)C | C3H9N
solvent | H2O | O | H2O
product | L-carnitine | 75% yield | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
